US09278102B2
(2-Nitro-5-(piperidin-1-yl)phenyl)(1-(phenylsulfonyl)-6-(trifluoromethyl)-1H-indol-2-yl)methanone
Into a 50 mL 3-neck round bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of dimethlysulfoxide (156 mg, 2.00 mmol, 3.73 equiv) in dichloromethane (5 mL). This was followed by the addition of oxalyl dichloride (127 mg, 1.00 mmol, 1.87 equiv) dropwise with stirring at −80° C. The resulting solution was stirred for 10 min at −80° C. in a liquid nitrogen bath. To this was added a solution of (2-nitro-5-(piperidin-1-yl)phenyl)(1-(phenylsulfonyl)-6-(trifluoromethyl)-1H-indol-2-yl)methanol (300 mg, 0.54 mmol, 1.00 equiv) in dichloromethane (5 mL) dropwise with stirring at −80° C. The resulting solution was stirred for an additional 60 min at −80° C. To the mixture was added triethylamine (400 mg, 3.96 mmol, 7.39 equiv) dropwise with stirring at −80° C. The resulting solution allowed to warm to −20° C. over 60 minutes. The solution was diluted with 50 mL of DCM. The mixture was washed with 1×30 mL of water and 1×30 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 300 mg of intermediate if as orange oil.

reactant | dimethlysulfoxide | 2.00 mmol, 156 mg, 3.73 equiv | CS(=O)C | C2H6OS
reactant | oxalyl dichloride | 1.00 mmol, 127 mg, 1.87 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2-nitro-5-(piperidin-1-yl)phenyl)(1-(phenylsulfonyl)-6-(trifluoromethyl)-1H-indol-2-yl)methanol | 0.54 mmol, 300 mg, 1.00 equiv | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)C(O)C=1N(C2=CC(=CC=C2C1)C(F)(F)F)S(=O)(=O)C1=CC=CC=C1 | C27H24F3N3O5S
reactant | triethylamine | 3.96 mmol, 400 mg, 7.39 equiv | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (2-Nitro-5-(piperidin-1-yl)phenyl)(1-(phenylsulfonyl)-6-(trifluoromethyl)-1H-indol-2-yl)methanone | 300 mg | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)C(=O)C=1N(C2=CC(=CC=C2C1)C(F)(F)F)S(=O)(=O)C1=CC=CC=C1 | C27H22F3N3O5S
